2166-12-24 06:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Patient began to vomit large amount of blood and clots.  NGT placed
   and ice water gavage returned > 1.5L blood over 1 hr.
   - Transfused 5 U PRBC and 2 U FFP
   - Low temp and rigoring after resuscitation -> given solumedrol and
   benadryl for ? reaction.  Also bear hugger for hypothermia
   - Surgery and IR consulted and patient went for embolization procedure
   at IR
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2166-12-24**] 03:11 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2166-12-24**] 12:11 AM
   Meperidine (Demerol) - [**2166-12-24**] 02:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-12-24**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 139 (118 - 161) bpm
   BP: 125/71(84) {121/71(84) - 148/87(100)} mmHg
   RR: 28 (24 - 40) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
           Total In:
           2,601 mL
   PO:
           TF:
   IVF:
   765 mL
   Blood products:
   1,436 mL
   Total out:
                                                                      0 mL
                                                                  1,775 mL
   Urine:
   275 mL
   NG:
   1,500 mL
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    826 mL
   Respiratory support
   SpO2: 95%
   ABG: 7.39/29/81.[**Numeric Identifier **]/23/-5
   Physical Examination
   Gen: NAD, AOx3, obviously jaudiced
   HEENT: PERRL, Scleral icterus present, MM dry, JVP 6cm
   CV: Tachycardic, regular, no M/R/G
   Pulm: CTAB
   Abd: Soft, mild TTP at LLQ, ND, BS +
   Extr: Trace edema, Pulses 2+ symmetric
   Labs / Radiology
   325 K/uL
   10.1 g/dL
   193 mg/dL
   0.6 mg/dL
   23 mEq/L
   4.3 mEq/L
   13 mg/dL
   98 mEq/L
   128 mEq/L
   33.8 %
   13.8 K/uL
        [image002.jpg]
   Repeat Hct of 21
                            [**2166-12-24**]  01:30 AM
                            [**2166-12-24**]  02:00 AM
                            [**2166-12-24**]  02:36 AM
                            [**2166-12-24**]  02:54 AM
   WBC
   13.8
   Hct
   23.8
   30.0
   33.8
   Plt
   325
   Cr
   0.6
   TCO2
   18
   Glucose
   187
   193
   Other labs: PT / PTT / INR:17.6/35.0/1.6, Lactic Acid:5.5 mmol/L,
   Ca++:7.5 mg/dL, Mg++:1.7 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   Patient is a 50 year old male with newly found malignancy, final
   pathology not yet available although prelim reportedly consistent with
   lymphoma significant gi bleed, unclear whether from tumor, biopsy or
   sphincterotomy
   .
   # GIB: >[**2158**] cc within the first 3 hrs of icu stay. 4 large bore
   peripheral iv in place, typed and crossed 6 units. Coagulopathy may be
   secondary to resuscitation. Angio took him for embolization overnight.
   Currently still bleeding with Hct of 21.
   - surgery called as back up
   - serial HCT q4h,
   - cont fluid and HCT
   - 2xFFP + NS
   - vitamin K  PO
   - ppi drip
   - ng tube with ice water lavage
   - continue NPO
   .
   #. Biliary Obstruction secondary to malignancy:
   - continue Levo/Flagyl given biliary obstruction and fever at home also
   empiric vanc for enterococci
   - f/u LFTs and amylase/lipase
   .
   #. Malignancy NOS: Heme/Onc to follow. Await final pathology for
   planning of further management. CT revealing malignancy locally
   invasive as well as peritoneal metastasis
   - follow up final pathology
   - follow up Hem/Onc recommendations
   .
   #. FEN - NPO, replete lytes
   .
   #. Ppx
 pneumoboots, PPI  drip
   .
   #. Code
 Full per patient and wife
   .
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2166-12-24**] 12:22 AM
   18 gauge
   16 gauge
   14 gauge
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Patient and Wife [**Telephone/Fax (1) 2083**]
   Code status: Full code
   Disposition:ICU

2166-12-24 09:29:00 Physician Attending Progress Note
Chief Complaint: GI bleed, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient went to angiography this morning. Suspected source of bleeding
   identified and embolized. Very vascular tumor seen.
   On return from angiography, NG placed back on suction; 350 cc  blood in
   stomach. Remains on IV PPI. Most recent hct=21. On 5th unit of PRBC's.
   Has also received 2 units of FFP for elevated INR.
   24 Hour Events:
   Angiography
   Transfusions
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2166-12-24**] 03:11 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2166-12-24**] 12:11 AM
   Meperidine (Demerol) - [**2166-12-24**] 02:40 AM
   Other medications:
   flonase, allopurinol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Gastrointestinal: Emesis, hemetemesis
   Flowsheet Data as of  [**2166-12-24**] 09:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.5
C (97.7
   HR: 110 (110 - 161) bpm
   BP: 108/68(37) {108/68(37) - 148/87(100)} mmHg
   RR: 24 (24 - 40) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
           Total In:
           3,264 mL
   PO:
           TF:
   IVF:
   1,145 mL
   Blood products:
   1,719 mL
   Total out:
                                                                      0 mL
                                                                  1,830 mL
   Urine:
   330 mL
   NG:
   1,500 mL
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,434 mL
   Respiratory support
   SpO2: 100%
   ABG: 7.39/29/81.[**Numeric Identifier **]/23/-5
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Sclera edema,
   icterus
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: Few
   scattered rhonchi)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person,place, time, Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Not assessed, Good capillary refill
   Labs / Radiology
   10.1 g/dL
   325 K/uL
   193 mg/dL
   0.6 mg/dL
   23 mEq/L
   4.3 mEq/L
   13 mg/dL
   98 mEq/L
   128 mEq/L
   21.7 %
   13.8 K/uL
        [image002.jpg]
                            [**2166-12-24**]  01:30 AM
                            [**2166-12-24**]  02:00 AM
                            [**2166-12-24**]  02:36 AM
                            [**2166-12-24**]  02:54 AM
                            [**2166-12-24**]  07:55 AM
   WBC
   13.8
   Hct
   23.8
   30.0
   33.8
   21.7
   Plt
   325
   Cr
   0.6
   TCO2
   18
   Glucose
   187
   193
   Other labs: PT / PTT / INR:17.8/32.8/1.6, Lactic Acid:5.5 mmol/L,
   Ca++:7.5 mg/dL, Mg++:1.7 mg/dL, PO4:4.2 mg/dL
   Imaging: CXR: mildly enlarged hila
   Assessment and Plan
   1) GI Bleed
   2) Anemia secondary to blood loss
   3) Metastatic cancer
   4) Hyponatremia
   5) Coagulopathy
   Patient with massive UGI bleed, most likely secondary to tumor.
   Embolization attempted this morning. Patient being monitored closely.
   Tachycardia persists. Blood products and volume resuscitation continue.
   Elevated lactate concerning for hypoperfusion, although it was measured
   during his transfusion reaction and may represent rigoring/muscle
   actvity; should be repeated. Normal BUN/Creat argues for fairly good
   volume resuscitation.  INR still mildly elevated; monitor for further
   need for FFP. Vitamin K to be administered.
   Patient still appears to be volume depleted by exam. Continue with
   volume resuscitation. Hyponatremia likely reflects increased ADH in the
   setting of volume depletion. Continue blood and volume resuscitation.
   Oxygenation remains good and CXR without evidence of volume overload.
   Patient on antibiotics for possible biliary infection.
   Awaiting pathology from ERCP biopsies.
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2166-12-24**] 12:22 AM
   16 Gauge - [**2166-12-24**] 01:00 AM
   14 Gauge - [**2166-12-24**] 01:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: Not applicable
   Comments:
   Communication: Patient discussed on interdisciplinary [**Year (4 digits) 1812**] , Family
   meeting held , ICU consent signed Comments: Condition discussed with
   patient and his wife on [**Name2 (NI) 1812**].
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2166-12-25 06:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 RADIATION THERAPY - At [**2166-12-24**] 06:00 PM
   - Serial Hcts followed
 given 1 U yesterday, now 6 U total
   - Bx Revealed diffuse large B cell lymphoma.
   - Pt underwent mapping with plan for radiation, however radiation was
   held secondary to equipment malfunction.
   - Pt started on Dexamethasone 20 mg IV DAILY
   - Vit K given for coagulopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2166-12-24**] 08:32 PM
   Vancomycin - [**2166-12-24**] 10:16 PM
   Metronidazole - [**2166-12-25**] 12:18 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-12-25**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.2
C (97.1
   HR: 94 (94 - 131) bpm
   BP: 116/73(81) {108/60(37) - 138/83(95)} mmHg
   RR: 14 (11 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  7,048 mL
                                                                  1,175 mL
   PO:
             TF:
   IVF:
                                                                  4,521 mL
                                                                  1,175 mL
   Blood products:
                                                                  2,007 mL
   Total out:
                                                                  4,170 mL
                                                                    945 mL
   Urine:
                                                                  2,320 mL
                                                                    945 mL
   NG:
                                                                  1,850 mL
   Stool:
   Drains:
   Balance:
                                                                  2,878 mL
                                                                    230 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   304 K/uL
   9.3 g/dL
   152 mg/dL
   0.5 mg/dL
   29 mEq/L
   4.5 mEq/L
   24 mg/dL
   100 mEq/L
   134 mEq/L
   26.7 %
   18.3 K/uL
        [image002.jpg]
                            [**2166-12-24**]  01:30 AM
                            [**2166-12-24**]  02:00 AM
                            [**2166-12-24**]  02:36 AM
                            [**2166-12-24**]  02:54 AM
                            [**2166-12-24**]  07:55 AM
                            [**2166-12-24**]  12:00 PM
                            [**2166-12-24**]  08:02 PM
                            [**2166-12-25**]  03:10 AM
   WBC
   13.8
   18.3
   Hct
   23.8
   30.0
   33.8
   21.7
   27.9
   30.7
   26.7
   Plt
   325
   304
   Cr
   0.6
   0.5
   0.7
   0.5
   TCO2
   18
   Glucose
   187
   193
   179
   134
   152
   Other labs: PT / PTT / INR:13.9/31.3/1.2, ALT / AST:168/31, Alk Phos /
   T Bili:398/4.9, Amylase / Lipase:/17, Differential-Neuts:95.4 %,
   Lymph:2.0 %, Mono:2.4 %, Eos:0.1 %, Lactic Acid:1.9 mmol/L, Albumin:2.7
   g/dL, LDH:185 IU/L, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
   Patient is a 50 year old male with newly found malignancy, final
   pathology not yet available although prelim reportedly consistent with
   lymphoma significant gi bleed, unclear whether from tumor, biopsy or
   sphincterotomy
   .
   # GIB: >[**2158**] cc within the first 3 hrs of icu stay. 4 large bore
   peripheral iv in place, typed and crossed 6 units. Coagulopathy may be
   secondary to resuscitation. Angio took him for embolization overnight.
   Currently still bleeding with Hct of 21.
   - surgery called as back up
   - serial HCT q4h,
   - cont fluid and HCT
   - 2xFFP + NS
   - vitamin K  PO
   - ppi drip
   - ng tube with ice water lavage
   - continue NPO
   .
   #. Biliary Obstruction secondary to malignancy:
   - continue Levo/Flagyl given biliary obstruction and fever at home also
   empiric vanc for enterococci
   - f/u LFTs and amylase/lipase
   .
   #. Malignancy NOS: Heme/Onc to follow. Await final pathology for
   planning of further management. CT revealing malignancy locally
   invasive as well as peritoneal metastasis
   - follow up final pathology
   - follow up Hem/Onc recommendations
   .
   #. FEN - NPO, replete lytes
   .
   #. Ppx
 pneumoboots, PPI  drip
   .
   #. Code
 Full per patient and wife
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2166-12-24**] 12:22 AM
   16 Gauge - [**2166-12-24**] 01:00 AM
   14 Gauge - [**2166-12-24**] 01:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2166-12-25 10:46:00 Physician Attending Progress Note
Chief Complaint: GI bleed, anemia, cholangitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Transfused yesterday. Hct stable. Hemodynamically stable.
   LFT's improving post stent.
   Bx showing B-cell lymphoma. To be started on radiation therapy.
   24 Hour Events:
 RADIATION THERAPY - At [**2166-12-24**] 06:00 PM
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2166-12-24**] 08:32 PM
   Vancomycin - [**2166-12-25**] 08:15 AM
   Metronidazole - [**2166-12-25**] 09:15 AM
   Infusions:
   Other ICU medications:
   Other medications:
   flonase, insulin, decadron
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-12-25**] 10:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.8
C (96.5
   HR: 107 (94 - 131) bpm
   BP: 129/94(104) {116/60(73) - 142/94(104)} mmHg
   RR: 14 (0 - 26) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
             Total In:
                                                                  7,198 mL
                                                                  2,128 mL
   PO:
             TF:
   IVF:
                                                                  4,521 mL
                                                                  2,128 mL
   Blood products:
                                                                  2,007 mL
   Total out:
                                                                  4,320 mL
                                                                  1,315 mL
   Urine:
                                                                  2,320 mL
                                                                  1,065 mL
   NG:
                                                                  2,000 mL
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                  2,878 mL
                                                                    813 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, Icterus improving
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, NG tube, No(t) OG tube, dry oral mucosa
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, No(t) Distant, No(t) Loud, No(t) Widely
   split , No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t)
   Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , Jaundice, Jaundice improving
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   304 K/uL
   152 mg/dL
   0.5 mg/dL
   29 mEq/L
   4.5 mEq/L
   24 mg/dL
   100 mEq/L
   134 mEq/L
   28.5 %
   18.3 K/uL
        [image002.jpg]
                            [**2166-12-24**]  01:30 AM
                            [**2166-12-24**]  02:00 AM
                            [**2166-12-24**]  02:36 AM
                            [**2166-12-24**]  02:54 AM
                            [**2166-12-24**]  07:55 AM
                            [**2166-12-24**]  12:00 PM
                            [**2166-12-24**]  08:02 PM
                            [**2166-12-25**]  03:10 AM
                            [**2166-12-25**]  07:00 AM
   WBC
   13.8
   18.3
   Hct
   23.8
   30.0
   33.8
   21.7
   27.9
   30.7
   26.7
   28.5
   Plt
   325
   304
   Cr
   0.6
   0.5
   0.7
   0.5
   TCO2
   18
   Glucose
   187
   193
   179
   134
   152
   Other labs: PT / PTT / INR:13.9/31.3/1.2, ALT / AST:168/31, Alk Phos /
   T Bili:398/2.9, Amylase / Lipase:/17, Differential-Neuts:95.4 %,
   Lymph:2.0 %, Mono:2.4 %, Eos:0.1 %, Lactic Acid:1.9 mmol/L, Albumin:2.7
   g/dL, LDH:242 IU/L, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
   ANEMIA
   CHOLANGITIS
   Hct stable; no need for transfusion now. LFT's improving.
   Complete course of antibioitcs; afebrile. WBC up from several days ago.
   Discontinue his NG tube.
   Plan for XRT. Monitor tumor lysis labs and hct.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2166-12-24**] 12:22 AM
   16 Gauge - [**2166-12-24**] 01:00 AM
   14 Gauge - [**2166-12-24**] 01:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments: Not applicable
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes